US04640703
2-[4-(5-Chloro-3-fluoropyridin-2-yloxy)phenoxy]propionyl chloride
63.6 g of 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid are dissolved in 700 ml of toluene, then 200 ml of toluene are removed from this solution by distillation. After cooling to 90° C., 25 ml (0.34 mole) of thionyl chloride are added dropwise and the solution is stirred for 14 hours at this temperature. The reaction mixture is then concentrated to a volume of 200 ml and the resultant solution of 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionyl chloride in toluene is used direct for the following reaction step.

reactant | 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid | 63.6 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)O)C)C=C1)F | C14H11ClFNO4
reactant | thionyl chloride | 0.34 mole, 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(5-Chloro-3-fluoropyridin-2-yloxy)phenoxy]propionyl chloride | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)F | C14H10Cl2FNO3
